US07238714B2
Step 1. Methyl 2-(bromomethyl)-5-chlorobenzoate
A mixture of methyl 5-chloro-2-methylbenzoate (3.13 g, 17.0 mmol), N-bromosuccinimide (3.17 g, 17.8 mmol), benzoyl peroxide (0.41 g, 1.70 mmol), and carbon tetrachloride (80 mL) was stirred at 80° C. for 16 h. After cooling to room temperature, the mixture was diluted with dichloromethane (200 mL) and washed with saturated sodium hydrogen carbonate aqueous (150 mL), and brine (150 mL). The organic layer was dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by flush column chromatography on silica gel eluting with hexane/ethyl acetate (60:1) to afford 1.13 g (25%) of the title compounds as colorless oil: 1H-NMR (CDCl3) δ 7.96 (1H, d, J=2.2 Hz), 7.46–7.40 (2H, m), 4.92 (2H, s), 3.96 (3H, s).

reactant | methyl 5-chloro-2-methylbenzoate | 17.0 mmol, 3.13 g | ClC=1C=CC(=C(C(=O)OC)C1)C | C9H9ClO2
reactant | N-bromosuccinimide | 17.8 mmol, 3.17 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 1.70 mmol, 0.41 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | carbon tetrachloride | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | Methyl 2-(bromomethyl)-5-chlorobenzoate | 1.13 g, 25% | BrCC1=C(C(=O)OC)C=C(C=C1)Cl | C9H8BrClO2
